US04060633
2.76 g. of 1-cyano-3-(4-phenoxy-phenyl)-butan-3-ol are dissolved in 20 ml. of acetic acid, a solution of 0.8 g. of chlorine in 20 ml. of acetic acid is added dropwise at 20° while stirring, the mixture is stirred for a further one hour and evaporated and the residue is worked up in the customary manner to give 1-cyano-3-(4-p-chlorophenoxy-phenyl)-butan-3-ol, m.p. 68° - 70°.

reactant | 1-cyano-3-(4-phenoxy-phenyl)-butan-3-ol | C(#N)CCC(C)(O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C17H17NO2
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-cyano-3-(4-p-chlorophenoxy-phenyl)-butan-3-ol | C(#N)CCC(C)(O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C17H16ClNO2
